Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Trauma:  fall

mildly displaced left femoral neck fracture
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ year old female who complains of s/p fall, Left Hip pain. 
mechanical trip and fall while transferring from bed to commode. 
c/o L hip pain. no obvious
rotation, deformity. no head strike/LOC. no blood thinners.
per son no cough but choking with swallowing water
mechanical trip and fall while transferring from bed to
commode. c/o L hip pain. no obvious rotation, deformity. no
head strike/LOC. no blood thinners. per son no cough but
choking with swallowing water mechanical trip and fall while
transferring from bed to commode. c/o L hip pain. no obvious
rotation, deformity. no head strike/LOC. no blood thinners.
per son no cough but choking with swallowing water

 
Past Medical History:
Dementia  
 ___ disease  
 Depression  

 
Social History:
___
Family History:
son
 
Physical ___:
PHYSICAL EXAMINATION: upon admission: ___
 
Temp: 99.9 HR: 100 BP: 128/62 Resp: 20 O(2)Sat: 90 Low
 
Constitutional: cachectic and pale in nad, Comfortable
HEENT: Pupils equal, round and reactive to light,
Normocephalic, atraumatic
dry mucous membranes
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
GU/Flank: pain with rom left hip but no deformity; nvi bilat
LExt
Skin: Warm and dry, No rash
Psych: responds to son; cooperative; bradykinetic and masked
facies; paucity of movement but moves all 4 ext
___: No petechiae

Physical examination upon discharge:  ___:

vital signs:  98.1, 88, 133/65, rr= 14, oxygen sat=100% 2 liters

CV:  ns1, s2, -s3, -s4
LUNGS:  crackles left lower lobe, diminished BS right side
ABDOMEN:  soft, non-tender
EXT:  hands and feet warm, + dp bil
NEURO:  opens eyes to repositioning, non-verbal, does not follow 
commands
SKIN:  mepilex dressing to coccyx

 
Pertinent Results:
___ 09:41AM BLOOD Hct-35.4
___ 03:11AM BLOOD WBC-12.9* RBC-4.10 Hgb-12.4 Hct-37.7 
MCV-92 MCH-30.2 MCHC-32.9 RDW-14.4 RDWSD-48.0* Plt ___
___ 11:20PM BLOOD WBC-14.1* RBC-4.08 Hgb-12.6 Hct-37.6 
MCV-92 MCH-30.9 MCHC-33.5 RDW-14.1 RDWSD-47.6* Plt ___
___ 06:50PM BLOOD WBC-16.2*# RBC-4.07 Hgb-12.6 Hct-37.9 
MCV-93 MCH-31.0 MCHC-33.2 RDW-14.2 RDWSD-48.3* Plt ___
___ 07:40AM BLOOD WBC-7.9# RBC-4.75 Hgb-14.5 Hct-44.0 
MCV-93 MCH-30.5 MCHC-33.0 RDW-14.7 RDWSD-50.1* Plt ___
___ 06:50PM BLOOD Neuts-94.2* Lymphs-2.5* Monos-2.4* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-15.24*# AbsLymp-0.41* 
AbsMono-0.38 AbsEos-0.01* AbsBaso-0.03
___ 03:11AM BLOOD Plt ___
___ 03:11AM BLOOD ___ PTT-33.6 ___
___ 03:11AM BLOOD Glucose-138* UreaN-36* Creat-1.1 Na-137 
K-4.5 Cl-105 HCO3-22 AnGap-15
___ 11:18AM BLOOD ALT-18 AST-39 AlkPhos-68
___ 03:11AM BLOOD Calcium-8.1* Phos-4.0 Mg-2.0
___ 01:55AM BLOOD Lactate-2.7*

___:  left hip fracture:

Left femoral neck fracture, acute.

___:  cat scan of the chest:

1. No acute sequelae of trauma. 
2. Mild pulmonary edema with small bilateral pleural effusions. 
3. Micronodular ___ opacity in the right upper lobe, 
question atypical superimposed infection versus trace 
aspiration.

___:  left femur fracture:

 Intact distal left femur

___:  

  
1. Numerous pelvic fractures are identified involving the left 
inferior pubic ramus, anterior column of the left acetabulum, 
left femoral neck and left sacrum. 
2. No evidence of retroperitoneal hematoma or fluid collection 
in the abdomen or pelvis. 
3. 4.2 cm gallstone seen at the gallbladder fundus.  No CT 
findings to 
otherwise suggest acute cholecystitis. 
4. Marked atherosclerosis of the abdominal aorta and its major 
branches. 
5. Small bilateral pleural effusions and mild pulmonary edema. 

  

 
Brief Hospital Course:
Ms. ___ is an ___ yo female with a history of dementia, 
___ disease,
and dementia who presents after an unwitnessed fall. Her son
responded immediately and she was transported by EMS to the 
___
ED. Here she was initially conversant, but later was no longer 
responding to commands or answering questions.
 Her son noted that at baseline she ambulates very little and 
mostly transfers from bed to chair. Further history was not 
possible given the patient's unwillingness to
communicate. Of note, patient's son notes that she is CMO and is
hesitant to agree to surgical intervention. The patient was 
admitted to the intensive care unit for monitoring and 
completion of imaging.  

  The patient was made NPO, given intravenous fluids, and 
underwent imaging.  Cat scan imaging of the pelvis showed 
numerous pelvic fractures identified involving the left inferior 
pubic ramus, anterior column of the left acetabulum, left 
femoral neck and left sacrum.  A 4.2 cm gallstone was seen at 
the gallbladder fundus. The orthopedic service was consulted for 
evaluation of the pelvic fracture.  After discussion with the 
family, the plan was for closed non-operative management.  

The patient was discharged to the Season's Hospice and 
Palliative Care on HD # 3 in stable condition.  Her vital signs 
were stable and she was afebrile.  She had a foley catheter in 
place for monitoring of urine output.  She was NPO and receiving 
intravenous fluids.  At the time of discharge, her IV line was 
discontinued per request of Season's Hospice.   

 
Medications on Admission:
Aripiprazole  
 Carbidopa-levodopa 25 mg-100 mg tab ___ tab by mouth ___ 
 
 Celexa  

 
Discharge Medications:
1. Heparin 5000 UNIT SC BID 
2. Morphine Sulfate (Concentrated Oral Soln) 5 mg PO Q4H:PRN 
pain 
RX *morphine concentrate 20 mg/mL 0.25 cc by mouth every four 
(4) hours Disp #*2 Syringe Refills:*0
3. o2 therapy
o2 therapy for comfort

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Trauma: fall

acute pelvic and hip fracture

 
Discharge Condition:
Activity Status: Bedbound.
Level of Consciousness: Lethargic but arousable.
non-communicative

 
Discharge Instructions:
You were admitted to the hospital after a fall in which you 
sustained hip and pelvic fractures. There was  no repair of her 
pelvic fracture.  She has been enrolled in a Palliative care 
program.  Her code status as been DNR/DNI.  Per family request 
that patient return to the Palliative care program for care.     
 
 
Followup Instructions:
___